US08193236B2
(5-Formyl-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester
A mixture of (5-cyano-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester (4.31 g, 17.7 mmol), NaPH2O2.H2O (14.99 g, 141 mmol) and Raney nickel (3.06 g, 35.4 mmol) in a mixture of water (50 mL), acetic acid (50 mL) and pyridine (100 mL) is heated for 2 h at 100° C. under an argon atmosphere. After cooling to room temperature the reaction mixture is filtered over hyflo and the filtrate concentrated by rotary evaporation. The residue is partitioned between water and TBME, the layers are separated and the aqueous phase is extracted with TBME. The combined organic layers are washed with a 1 M aqueous HCl solution, a saturated aqueous NaHCO3 solution and brine. After drying over Na2SO4 and evaporation of the solvent in vacuo the crude product is obtained as a brown oil. Further purification by flash column chromatography (silica gel gradient of cyclohexane/EtOAc 100:0 to 6:1) affords the title compound as colorless crystals (2.59 g, 10.5 mmol, 60%). 1H NMR (400 MHz, CDCl3, 298 K): δ=10.08 (s, 1H), 8.07 (s, 1H), 7.82 (d, J=8.9 Hz, 1H), 7.52 (d, J=8.9 Hz, 1H), 4.19 (q, J=7.1 Hz, 2H), 3.66 (s, 2H), 2.49 (s, 3H), 1.27 (t, J=7.1 Hz, 3H). MS (ES+): 247 (M(C14H14O4)+H)+.

reactant | (5-cyano-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 17.7 mmol, 4.31 g | C(C)OC(CC1=C(OC2=C1C=C(C=C2)C#N)C)=O | C14H13NO3
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
catalyst | Raney nickel | 35.4 mmol, 3.06 g | [Ni] | Ni
solvent | water | 50 mL | O | H2O
product | (5-Formyl-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 10.5 mmol, 2.59 g, 60% | C(C)OC(CC1=C(OC2=C1C=C(C=C2)C=O)C)=O | C14H14O4
